data/polar.json
{"reaction_name": "Michael addition", "rsmi": "[O-:11][c:25]1[cH:18][c:16](=[O:19])[n:28]([CH3:13])[c:21](=[O:12])[n:31]1[CH3:20].[O:1]=[C:26]1[N:5]([CH3:22])[C:24](=[O:7])[N:6]([CH3:23])[C:27](=[O:2])[C:14]1=[CH:17][c:8]1[cH:29][cH:3][c:15]([O:10][CH3:9])[cH:4][cH:30]1>>[O-:1][c:26]1[n:5]([CH3:22])[c:24](=[O:7])[n:6]([CH3:23])[c:27](=[O:2])[c:14]1[CH:17]([c:8]1[cH:29][cH:3][c:15]([O:10][CH3:9])[cH:4][cH:30]1)[CH:18]1[C:16](=[O:19])[N:28]([CH3:13])[C:21](=[O:12])[N:31]([CH3:20])[C:25]1=[O:11]", "epd": [["LP-/Pi+", [11], [25, 11]], ["Pi-/Sigma+", [18, 25], [18, 17]], ["Pi-/Pi+", [17, 14], [14, 26]], ["Pi-/LP+", [26, 1], [1]]]}
{"reaction_name": "α-Hydroxy ketone fragmentation", "rsmi": "[O:1]([H:5])[CH:6]([C:7](=[O:2])[CH3:4])[CH3:8].[O:3]=[I:9](=[O:10])(=[O:11])[O:12][H:13]>>[O:1]=[CH:6][CH3:8].[O:2]=[C:7]([O:3][H:5])[CH3:4].[I:9](=[O:10])(=[O:11])[O:12][H:13]", "epd": [["Sigma-/Pi+", [1, 5], [1, 6]], ["LP-/Sigma+", [3], [3, 5]], ["Sigma-/Sigma+", [6, 7], [3, 7]], ["Sigma-/LP+", [3, 9], [9]]]}
{"reaction_name": "Hosomi–Sakurai allylation", "rsmi": "[CH2:1]([Si:4]([CH3:5])([CH3:6])[CH3:7])[CH:10]=[CH2:8].[O:2]=[CH:9][CH3:3]>>[CH2:1]([CH:9]([O-:2])[CH3:3])[CH:10]=[CH2:8].[Si+:4]([CH3:5])([CH3:6])[CH3:7]", "epd": [["Sigma-/Sigma+", [1, 4], [1, 9]], ["Pi-/LP+", [2, 9], [2]]]}
{"reaction_name": "σ-Adduct formation on a neutral electron-poor arene / heteroarene", "rsmi": "[O-:1][C:21](=[CH:2][c:8]1[cH:16][cH:6][cH:26][cH:7][cH:17]1)[O:25][CH2:27][CH3:12].[cH:3]1[c:9]([N+:18](=[O:13])[O-:23])[cH:4][c:10]([N+:19](=[O:14])[O-:22])[cH:5][c:11]1[N+:20](=[O:15])[O-:24]>>[O:1]=[C:21]([CH:2]([CH:3]1[C:9](=[N+:18]([O-:13])[O-:23])[CH:4]=[C:10]([N+:19](=[O:14])[O-:22])[CH:5]=[C:11]1[N+:20](=[O:15])[O-:24])[c:8]1[cH:16][cH:6][cH:26][cH:7][cH:17]1)[O:25][CH2:27][CH3:12]", "epd": [["LP-/Pi+", [1], [21, 1]], ["Pi-/Sigma+", [2, 21], [2, 3]], ["Pi-/Pi+", [3, 9], [9, 18]], ["Pi-/LP+", [18, 13], [13]]]}
{"reaction_name": "Aza-Michael addition", "rsmi": "[C:1](#[N:11])[C:15]([C:2]#[N:12])=[CH:4][c:17]1[cH:8][cH:13][cH:18][cH:14][cH:9]1.[cH:3]1[n:5][c:10]([O-:7])[cH:19][cH:6][cH:16]1>>[C:1](=[N-:11])=[C:15]([C:2]#[N:12])[CH:4]([n:5]1[cH:3][cH:16][cH:6][cH:19][c:10]1=[O:7])[c:17]1[cH:8][cH:13][cH:18][cH:14][cH:9]1", "epd": [["Pi-/Sigma+", [3, 5], [4, 5]], ["LP-/Pi+", [7], [7, 10]], ["Pi-/LP+", [1, 11], [11]], ["Pi-/Pi+", [4, 15], [1, 15]], ["Pi-/Pi+", [6, 16], [3, 16]], ["Pi-/Pi+", [10, 19], [6, 19]]]}
{"reaction_name": "Dearomatizing addition to an azaarenium / acridinium ion", "rsmi": "[S:1]([c:7]1[cH:23][cH:12][cH:10][cH:13][cH:24]1)([O-:8])=[O:20].[n+:2]1([CH3:11])[c:3]2[cH:14][cH:18][cH:16][cH:5][c:21]2[cH:9][c:22]2[c:4]1[cH:15][cH:19][cH:17][cH:6]2>>[S+:1]([c:7]1[cH:23][cH:12][cH:10][cH:13][cH:24]1)([O-:8])([CH:9]1[c:21]2[c:3]([cH:14][cH:18][cH:16][cH:5]2)[N:2]([CH3:11])[c:4]2[cH:15][cH:19][cH:17][cH:6][c:22]21)=[O:20]", "epd": [["LP-/Sigma+", [1], [1, 9]], ["Pi-/Pi+", [9, 21], [21, 3]], ["Pi-/LP+", [3, 2], [2]]]}
{"reaction_name": "Carbamate formation", "rsmi": "[CH3:1][O:2][C:5](=[O:4])[Cl:7].[NH:3]([CH3:6])[H:8]>>[CH3:1][O:2][C:5]([NH:3][CH3:6])=[O:4].[Cl:7][H:8]", "epd": [["LP-/Sigma+", [3], [3, 5]], ["Pi-/LP+", [4, 5], [4]], ["LP-/Pi+", [4], [4, 5]], ["Sigma-/LP+", [5, 7], [7]], ["LP-/Sigma+", [7], [7, 8]], ["Sigma-/LP+", [3, 8], [3]]]}
{"reaction_name": "Dearomatizing capture of a tropylium / arenium ion", "rsmi": "[O-:3][c:4]1[cH:12][cH:9][c:11]([CH3:5])[cH:10][cH:13]1.[cH:1]1[cH:2][cH:8][cH:15][cH+:6][cH:14][cH:7]1>>[CH:1]1=[CH:2][CH:8]=[CH:15][CH:6]([O:3][c:4]2[cH:12][cH:9][c:11]([CH3:5])[cH:10][cH:13]2)[CH:14]=[CH:7]1", "epd": [["LP-/Sigma+", [3], [3, 6]]]}
{"reaction_name": "Ritter-type carbocation capture", "rsmi": "[C+:2]([CH3:3])([CH3:4])[CH3:5].[N:1]#[C:6][CH3:7]>>[N+:1]([C:2]([CH3:3])([CH3:4])[CH3:5])#[C:6][CH3:7]", "epd": [["LP-/Sigma+", [1], [1, 2]]]}
{"reaction_name": "Electrophilic SCF3 transfer by substitution at sulfur", "rsmi": "[N:1]1([S:4][C:15]([F:5])([F:6])[F:7])[S:3](=[O:24])(=[O:25])[c:8]2[c:31]([cH:27][cH:12][cH:32][cH:35]2)[C:34]1=[O:18].[cH:2]1[cH:16][cH:28][c:11]([S:36](=[O:13])(=[O:14])[CH:19]=[C:30]2[CH:9]=[CH:22][C:33](=[N+:26]([O-:20])[O-:21])[CH:23]=[CH:10]2)[cH:29][cH:17]1>>[N:1]1=[C:34]([O-:18])[c:31]2[c:8]([cH:35][cH:32][cH:12][cH:27]2)[S:3]1(=[O:24])=[O:25].[cH:2]1[cH:16][cH:28][c:11]([S:36](=[O:13])(=[O:14])[CH:19]([S:4][C:15]([F:5])([F:6])[F:7])[c:30]2[cH:9][cH:22][c:33]([N+:26](=[O:20])[O-:21])[cH:23][cH:10]2)[cH:29][cH:17]1", "epd": [["LP-/Pi+", [20], [26, 20]], ["Pi-/Pi+", [33, 26], [23, 33]], ["Pi-/Pi+", [10, 23], [30, 10]], ["Pi-/Sigma+", [19, 30], [19, 4]], ["Sigma-/Pi+", [4, 1], [1, 34]], ["Pi-/LP+", [34, 18], [18]]]}
